US04325962
The 3-(p-chlorobenzoyl)-levulinic acid ethyl ester used in Example 20 as the starting material was obtained in the following manner: p-chloro-acetophenone, acetic acid ethyl ester and sodium hydride were condensed to form p-chloro-benzoylacetone by the method described by Swamer and Hauser, J. Am. Chem. So. 72, 1352 (1952). The p-chlorobenzoylacetone thus obtained was alkylated by reaction with bromoacetic acid ester and sodium hydride in dimethyl formamide to produce 3-(p-chlorobenzoyl)-levulinic acid ethyl ester in a yield of 83%, having a boiling point Kp0.001 of 140°-150° C.

reactant | 3-(p-chlorobenzoyl)-levulinic acid ethyl ester | C(C)OC(CC(C(=O)C)C(C1=CC=C(C=C1)Cl)=O)=O | C14H15ClO4
reactant | p-chloro-acetophenone | ClC1=CC=C(C=C1)C(C)=O | C8H7ClO
reactant | sodium hydride | [H-].[Na+]
solvent | acetic acid ethyl ester | C(C)OC(C)=O | C4H8O2
product | p-chloro-benzoylacetone | ClC1=CC=C(C(=O)CC(C)=O)C=C1 | C10H9ClO2
